US05028596
a) 3',5'-di-O-Acetyl-2'-deoxy-5-ethynyluridine
5-ethynyl-2'-deoxyuridine (J. Med. Chem., 26(5), 661-6, (1983)) (1.26 g, 5.0 mmole), 10 ml of dry pyridine, and 1.22 g of acetic anhydride (12.0 mmole) were stirred together at room temperature for 20 hr. The resulting clear solution was evaporated to give a syrupy residue which upon co-evaporation with ethanol gave a white solid. Re-crystallisation from ethanol gave 1.49 g (92%) of the title compound as white crystals melting at 152°-4° C.

reactant | 5-ethynyl-2'-deoxyuridine | 5.0 mmole, 1.26 g | C(#C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C11H12N2O5
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 12.0 mmole, 1.22 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethanol | C(C)O | C2H6O
product | 3',5'-di-O-Acetyl-2'-deoxy-5-ethynyluridine | 1.49 g, 92% | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)C#C | C15H16N2O7
